US04568497
Hydrogen peroxide (67% H2O2, 0.60 equivalents) was added to a mixture of 0.005 equivalents of Dowex® MSC-1 sulfonic acid resin in the proton form, 0.050 equivalents 2-(4-(1-methylethenyl)phenoxy)propanoic acid (prepared by base hydrolysis of methyl 2-(4-(1-methylethenyl)phenoxy)propanoate), and 11 ml methanol at room temperature. The mixture was refluxed about 10 hours. (The oxidation was complete after about 1.5 hour, but about 10 hours were required for the simultaneous esterification.) Workup gave 8.3 g of methyl 2-(4-hydroxyphenoxy)propanoate containing a small amount of 2-(4-hydroxyphenoxy)propanoic acid.

reactant | Hydrogen peroxide | 0.60 equivalents | OO | H2O2
reactant | 2-(4-(1-methylethenyl)phenoxy)propanoic acid | 0.050 equivalents | CC(=C)C1=CC=C(OC(C(=O)O)C)C=C1 | C12H14O3
reactant | 2-(4-hydroxyphenoxy)propanoic acid | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
solvent | methanol | 11 ml | CO | CH4O
product | methyl 2-(4-hydroxyphenoxy)propanoate | 8.3 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
